US09416353B2
a. tert-butyl 2-{2-[4-(2-hydroxyethyl)phenoxy]ethoxy}-ethylcarbamate
A 100 ml round bottom flask was charged with 4-hydroxyphenethyl alcohol (1.14 g, 8.2 mmol), cesium carbonate (4.02 g, 12.4 mmol), and tert-butyl 2-(2-{[(4-methylphenoxy)sulfonyl]oxy}ethoxy)-ethylcarbamate (2.96 g, 8.2 mmol) (prepared using standard chemistry). This reaction mixture was slurried with 10 ml of DMF and heated to 60° C. by use of an oil bath. The reaction proceeded for 19 hours at which point was it was cooled and the DMF removed under reduced pressure. Upon adding dichloromethane the reaction mixture was filtered through a plug of celite and then the solvent removed. The resultant solid was dried under high vacuum. A near quantitative yield of product was isolated: 1H NMR (CDCl3) δ 7.11 (d, 2H, Ar), 6.98 (d, 2H, Ar), 4.97 (bs, exchangeable, NH), 4.07 (dd, CH2—O), 3.79 (t, CH2—OH), 3.78 (dd, CH2—O), 3.57 (t, CH2—O), 3.30 (bm, CH2—NH), 2.78 (t, CH2—Ar), 1.82 (bs, exchangeable, OH) 1.41 (s, 9H, CH3). Mass spectrum, m/e Calcd for C17H28NO5+: 326.20 (100%), 327.20 (19.5%). Found: 326.56, 327.57.

reactant | 4-hydroxyphenethyl alcohol | 8.2 mmol, 1.14 g | OC1=CC=C(CCO)C=C1 | C8H10O2
reactant | cesium carbonate | 12.4 mmol, 4.02 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl 2-(2-{[(4-methylphenoxy)sulfonyl]oxy}ethoxy)-ethylcarbamate | 8.2 mmol, 2.96 g | CC1=CC=C(OS(=O)(=O)OCCOCCNC(OC(C)(C)C)=O)C=C1 | C16H25NO7S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | tert-butyl 2-{2-[4-(2-hydroxyethyl)phenoxy]ethoxy}-ethylcarbamate | quantitative yield | OCCC1=CC=C(OCCOCCNC(OC(C)(C)C)=O)C=C1 | C17H27NO5
